US07749992B2
Step 2. Preparation of 2-[tert-Butoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-4-chloro-benzoic acid methyl ester
Add methyl 4-bromobutyrate (54.4 mL, 0.437 mol) to a mixture of 2-tert-butoxycarbonylamino-4-chloro-benzoic acid methyl ester (96.15 g, 0.337 mol) and Cs2CO3 (274.10 g, 0.841 mol) in DMF (1.3 L). Heat the suspension at 55° C. overnight. Remove DMF under vacuum. Dilute the organics with ethyl acetate (1.5 L) and water (1.5 L). Separate the organic layer and extract the aqueous with ethyl acetate (2×0.5 L). Combine the organics and wash with half saturated potassium bicarbonate (1 L), water (2×0.5 L) and brine (0.5 L). Dry the organics over sodium sulfate, filter, and remove solvent under vacuum. This provides the title compound as a yellow oil crude (141.8 g):

reactant | methyl 4-bromobutyrate | 0.437 mol, 54.4 mL | BrCCCC(=O)OC | C5H9BrO2
reactant | 2-tert-butoxycarbonylamino-4-chloro-benzoic acid methyl ester | 0.337 mol, 96.15 g | COC(C1=C(C=C(C=C1)Cl)NC(=O)OC(C)(C)C)=O | C13H16ClNO4
reactant | Cs2CO3 | 0.841 mol, 274.10 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 1.3 L | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 1.5 L | C(C)(=O)OCC | C4H8O2
solvent | water | 1.5 L | O | H2O
product | 2-[tert-Butoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-4-chloro-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)Cl)N(CCCC(=O)OC)C(=O)OC(C)(C)C)=O | C18H24ClNO6
